US07189851B2
Ethyl (9aS)-4-(4-bromo-2-thienyl)-2-[2-(4-fluorophenyl)ethyl]-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizine-3-carboxylate
tert-Butyl (2S)-2-(3-ethoxy-3-oxopropanoyl)-1-pyrrolidinecarboxylate (0.445 g, 1.00 mmol, 1 equiv), ethyl (2Z)-3-amino-5-(4-fluorophenyl)-2-pentenoate (0.237 g, 1.00 mmol, 1 equiv), 4-bromo-2-thiophenecarboxaldehyde (0.191 g, 1.00 mmol, 1 equiv), and piperidine (0.05 mL, 0.5 mmol, 0.5 equiv) were combined in toluene (2.0 mL). After 2 h at 90° C., the reaction was cooled to ambient temp. CAN (1.64 g, 3.00 mmol, 3 equiv) and H2O (2.0 mL) were added. After 0.5 h the layers were separated. The aqueous portion was extracted with EtOAc (2×4 mL) and the combined organic portions were concentrated to a brown oil. The crude oil was then treated with 4 N HCl in dioxane (2.0 mL). After 1 h, the mixture was concentrated to a brown oil. A CH2Cl2 solution (2.0 mL) of this crude oil was treated with Et3N (0.70 mL, 5.0 mmol, 5 equiv). After 8 h, the mixture was concentrated to a brown oil and radially chromatographed (SiO2, 2 mm plate, 50% hexanes-EtOAc) to provide the title compound as a pale yellow foam (0.088 g, 17%): 1H NMR (CDCl3, 400 MHz) δ 7.40 (d, J=1.5 Hz, 1H), 7.17–7.13 (m, 3H), 6.98–6.93 (m, 2H), 4.69 (dd, J=10.4, 6.2 Hz, 1H), 4.22–4.14 (m, 2H), 3.78–3.71 (m, 1H), 3.43–3.37 (m, 1H), 3.17–3.02 (m, 4H), 2.51–2.44 (m, 1H), 2.37–2.29 (m, 2H), 1.39–1.34 (m, 1H), 1.11 (t, J=7.1 Hz, 3H).

reactant | tert-Butyl (2S)-2-(3-ethoxy-3-oxopropanoyl)-1-pyrrolidinecarboxylate | 1.00 mmol, 0.445 g, 1 equiv | C(C)OC(CC(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C14H23NO5
reactant | ethyl (2Z)-3-amino-5-(4-fluorophenyl)-2-pentenoate | 1.00 mmol, 0.237 g, 1 equiv | N\C(=C/C(=O)OCC)\CCC1=CC=C(C=C1)F | C13H16FNO2
reactant | 4-bromo-2-thiophenecarboxaldehyde | 1.00 mmol, 0.191 g, 1 equiv | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | piperidine | 0.5 mmol, 0.05 mL, 0.5 equiv | N1CCCCC1 | C5H11N
reactant | CAN | 3.00 mmol, 1.64 g, 3 equiv | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | Et3N | 5.0 mmol, 0.70 mL, 5 equiv | CCN(CC)CC | C6H15N
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 2.0 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 2.0 mL | O | H2O
product | Ethyl (9aS)-4-(4-bromo-2-thienyl)-2-[2-(4-fluorophenyl)ethyl]-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizine-3-carboxylate | 0.088 g, 17% | BrC=1C=C(SC1)C1=C(C(=NC2=C1C(N1CCC[C@@H]21)=O)CCC2=CC=C(C=C2)F)C(=O)OCC | C25H22BrFN2O3S
